datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]=[C:11]=[N-:12])=[O:62])C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH:10]([C:11]#[N:12])[P:61](C2=CC=CC=C2)(C2=CC=CC=C2)=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20;12=11,12"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:50][C:22](=[CH:21][CH:20]([CH:10]([C:61](=[O:62])[O:72]CC)[C:81](C)=[O:82])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N:10]2[F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10=20;20,21=21"
"C/[C:10](=[C:11](\C)[O-:12])[C:61](C)=[O:62].N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:10]([C:11](C)=[O:12])([C:20]1(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])[C:61](C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>CC(C)[C:22](=[CH:21][CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20](C3=CC=C(N(C)C)C=C3)[C-:21]([S:32](C3=CC=CC=C3)(=[O:33])=[O:34])[S:41](C3=CC=CC=C3)(=[O:42])=[O:43])[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([C:10](C3=CC=CC=C3)([C:11](=[O:12])[C:61]3=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]3)[C:81]#[N:82])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[C:61](=[O:62])[N:10]=[C:11]1[O-:12].C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([N:10]2[C:11](=[O:12])CC[C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20;12=11,12"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[Si](C)(C)[C:11](C)=[CH2:10]>>CC[O:33][C:31]([CH:20]([CH2:10][C+:11](C)[Si](C)(C)C)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
